US05245046
To a stirred mixture of sodium amide (prepared from 0.9 g 39.13 mmoles of sodium) and ca 100 ml of liquid ammonia was added a solution of 5.08 g (38.73 mmoles) of 5-methylindole in 100 ml of ether during 5 minutes. The mixture was stirred for 1.5 hours. Then a solution of 5.15 g (40.68 mmoles) of benzyl chloride in 100 ml of ether was added during 10 minutes. The mixture was stirred for two hours. The ammonia was allowed to evaporate overnight. The inside of the flask was washed down with MeOH. Then 150 ml of H2O was added. The layers were separated. The aqueous layer was extracted with 100 ml of ether. The combined ether phases were washed with 50 ml of brine and dried over MgSO4. Evaporation of the solvent left 9.41 g of oil. The oil was chromatographed on a 700 g column of silica gel. The column was eluted with 30% CH 2 Cl2 -Skellysolve B and 200 ml fractions were collected. The fractions were assayed by silica gel tlc (2×8") (25% CH2Cl2 -Skellysolve B). Fractions 12-17 were combined giving 4.52 g (53%) of 1-benzyl-5-methylindole as a yellow-green oil.

reactant | sodium amide | 39.13 mmoles, 0.9 g | [NH2-].[Na+]
reactant | ammonia | N | H3N
reactant | 5-methylindole | 38.73 mmoles, 5.08 g | CC=1C=C2C=CNC2=CC1 | C9H9N
reactant | benzyl chloride | 40.68 mmoles, 5.15 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
product | 1-benzyl-5-methylindole | 4.52 g, 53% | C(C1=CC=CC=C1)N1C=CC2=CC(=CC=C12)C | C16H15N
